US06875884B1
N3-Bromopropyl)phthalimide (13.0 g, 48.5 mmol) was added to a mixture of 1,2,3,4-tetrahydro-1-naphthylamine (6.96 ml, 48.5 mmol) and potassium carbonate (13.4 g, 97.0 mmol) in CH3CN (200 ml). The mixture was refluxed under stirring for 21 h, and then filtered. The filtrate was concentrated under vacuum to dryness, and the residue was chromatographed on silica gel (eluting with 1.5% methanol/chloroform) to afford N-[3-(1,2,3,4-tetrahydro-1-naphthylamino)propyl]phthalimide (23.9 g, 74%): MS(ES+) m/e 335 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.84 (m, 2H), 7.71 (m, 2H), 7.39 (m, 1H), 7.13 (m, 2H), 7.06 (m, 1H), 3.81 (m, 3H), 2.81 (m, 2H), 2.71 (m, 2H), 2.00-1.85 (m, 4H), 1.72 (m, 2H).

reactant | phthalimide | 48.5 mmol, 13.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 1,2,3,4-tetrahydro-1-naphthylamine | 48.5 mmol, 6.96 ml | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | potassium carbonate | 97.0 mmol, 13.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH3CN | 200 ml | CC#N | C2H3N
product | N-[3-(1,2,3,4-tetrahydro-1-naphthylamino)propyl]phthalimide | 23.9 g, 74% | C1(CCCC2=CC=CC=C12)NCCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H22N2O2
